US05112966
A solution of (3S,4S)-4-(1-hydroxy-1-methylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2azetidinone (30 g) in dry toluene (350 ml) was treated with thionyl chloride (9.0 g) at 20°-30° C. for 5 hours in the presence of pyridine (10 ml). Water (100 ml) was added to quench the reaction at 10°-25° C. The organic layer was separated, washed with water and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave an oily residue, which was crystallized from a mixture of cyclohexane and ethyl acetate to yield (3S,4S)-4-(1-methylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone. m.p., 117°-118° C.

reactant | (3S,4S)-4-(1-hydroxy-1-methylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2azetidinone | 30 g | OC(C)(C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H39NO7
reactant | thionyl chloride | 9.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | Water | 100 ml | O | H2O
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | (3S,4S)-4-(1-methylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | CC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H37NO6
